US05438046
Alternatively, by deprotecting N-(4-ethoxycarbonylmethyl-2-thi-azolyl)-3-phenyl-2-(tert-butoxycarbonyl)amino-propanamide (5 g; 11.5 mmoles), prepared as described in example 1, in the presence of trifluoroacetic acid, N-(4-ethoxycarbonylmethyl-2-thiazolyl)-2-amino-3-phenyl-propanamide (3.6 g; 93.2% yield) having the same above reported spectroscopic characteristics, was obtained.

reactant | N-(4-ethoxycarbonylmethyl-2-thi-azolyl)-3-phenyl-2-(tert-butoxycarbonyl)amino-propanamide | 11.5 mmoles, 5 g | C(C)OC(=O)CC=1N=C(SC1)NC(C(CC1=CC=CC=C1)NC(=O)OC(C)(C)C)=O | C21H27N3O5S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
product | N-(4-ethoxycarbonylmethyl-2-thiazolyl)-2-amino-3-phenyl-propanamide | 3.6 g, 93.2% yield | C(C)OC(=O)CC=1N=C(SC1)NC(C(CC1=CC=CC=C1)N)=O | C16H19N3O3S
